US06331538B1
3-Benzyloxy-1-butyl-7-chloro-6-fluoro-1H-pyrido[2,3-d]pyrimidine-2,4-dione
Using the General Method 5, the reaction of N-benzyloxy-2,6-dichloro-5-fluoro-3-pyridinecarboxamide (Example M-2, 2.00 g, 6.34 mmol) and 60% NaH in oil (300 mg, 7.52 mmol) with n-butyl isocyanate (2.14 mL, 19.02 mmol) in DMA afforded crude product. Recrystallization from chloroform provided 1.40 g of the title compound as a solid, mp 147-148° C.

reactant | N-benzyloxy-2,6-dichloro-5-fluoro-3-pyridinecarboxamide | 6.34 mmol, 2.00 g | C(C1=CC=CC=C1)ONC(=O)C=1C(=NC(=C(C1)F)Cl)Cl | C13H9Cl2FN2O2
reactant | NaH | [H-].[Na+]
reactant | n-butyl isocyanate | 19.02 mmol, 2.14 mL | C(CCC)N=C=O | C5H9NO
solvent | DMA | CC(=O)N(C)C | C4H9NO
product | 3-Benzyloxy-1-butyl-7-chloro-6-fluoro-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 1.40 g | C(C1=CC=CC=C1)ON1C(N(C2=C(C1=O)C=C(C(=N2)Cl)F)CCCC)=O | C18H17ClFN3O3
